US06001849
Preparation of 2-(2-(S)-pyrrolidinyl)furo[3,2-b]pyridine dihydrochloride
A 980 mg sample of 2-(1-BOC-2-(S)-pyrrolidinyl)furo[3,2-b]pyridine, from Example 1d above, was dissolved in a solution of TFA in CH2Cl2 at 0° C. and stirred under N2 while warming to room temperature. The reaction mixture was diluted with 1 N HCl, and the aqueous layer was separated. The aqueous solution was adjusted to pH 10 with K2CO3, and the mixture was extracted with CH2Cl2. The solution was dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel and treated with HCl in Et2O as described in Example 1e to obtain 280 mg of title compound: 1H NMR (CDCl3, 300 MHz) δ 2.17-2.52 (m, 3H), 2.65 (m, 1H), 3.57 (dt, 2H, J=1.5, 7.5 Hz), 5.15 (t, 1H, J=8 Hz), 7.44 (s, 1H), 7.84 (dd, 1H, J=6, 8.5 Hz), 8.5 (dt, 1H, J=1, 8.5 Hz), 8.70 (dd, 1H, J=1, 6 Hz). MS m/z: 189 (M+H)+, 206 (M+NH4)+ ; Anal. Calcd for C11H12N2O.2.0 HCl: C, 50.59; H, 5.40; N, 10.73. Found: C, 50.52; H, 5.26; N, 10.50.

reactant | 2-(1-BOC-2-(S)-pyrrolidinyl)furo[3,2-b]pyridine | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C1=CC2=NC=CC=C2O1 | C16H20N2O3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | HCl | 1 N | Cl | ClH
product | 2-(2-(S)-pyrrolidinyl)furo[3,2-b]pyridine dihydrochloride | 280 mg | Cl.Cl.N1[C@@H](CCC1)C1=CC2=NC=CC=C2O1 | InChI=1S/C11H12N2O.2ClH/c1-3-8(12-5-1)11-7-9-10(14-11)4-2-6-13-9;;/h2,4,6-8,12H,1,3,5H2;2*1H/t8-;;/m0../s1
